US07846935B2
Preparation of N—((S)-1-((3R,3aR,6aR)-3-Hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H, 6H,6aH)-yl)-4-methyl-1-oxopentan-2-yl)-4-(4-propylpiperazin-1-yl)benzamide A solution of HCl in 1,4-dioxane (4.0M, 22 mL, 88 mmol) was added to tert-butyl(S)-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H,6aH)-yl)-4-methyl-1-oxopentan-2-ylcarbamate (1.335 g, 3.90 mmol). The solution was stirred for 2.5 hours then the solvents were removed in vacuo and the residue azeotroped with toluene (3×30 mL) to leave (S)-2-amino-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H,6aH)-yl)-4-methylpentan-1-one hydrochloride as an off-white solid which was used without further purification. TLC (Rf=0.0, EtOAc:heptane 3:1), analytical HPLC main peak, Rt=3.54 min., HPLC-MS 243.2 [M+H]+, 507.3 [2M+Na]+.

reactant | N—((S)-1-((3R,3aR,6aR)-3-Hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H, 6H,6aH)-yl)-4-methyl-1-oxopentan-2-yl)-4-(4-propylpiperazin-1-yl)benzamide | O[C@H]1CO[C@H]2[C@@H]1N(CC2)C([C@H](CC(C)C)NC(C2=CC=C(C=C2)N2CCN(CC2)CCC)=O)=O | C26H40N4O4
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 88 mmol, 4.0M, 22 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl(S)-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H,6aH)-yl)-4-methyl-1-oxopentan-2-ylcarbamate | 3.90 mmol, 1.335 g | O[C@H]1CO[C@H]2[C@@H]1N(CC2)C([C@H](CC(C)C)NC(OC(C)(C)C)=O)=O | C17H30N2O5
product | (S)-2-amino-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H,6aH)-yl)-4-methylpentan-1-one hydrochloride | Cl.N[C@H](C(=O)N1[C@H]2[C@@H](CC1)OC[C@@H]2O)CC(C)C | InChI=1S/C12H22N2O3.ClH/c1-7(2)5-8(13)12(16)14-4-3-10-11(14)9(15)6-17-10;/h7-11,15H,3-6,13H2,1-2H3;1H/t8-,9-,10+,11+;/m0./s1
